US08957103B2
3-Bromopropoxy-tert.-butyldimethylsilane
A modified procedure of Galka et al. (J. Lab. Comp. Rad. 2005, 48(11): 797-809) was used to prepare the title compound. A mixture of 3-bromopropanol (39.1 mmole; 5.43 g), tert.-butyldimethylsilylchloride (43.2 mmole; 6.47 g) and imidazole (46.7 mmole; 3.20 g) was stirred at RT for 3 hours under inert gas. The reaction was quenched with water, extracted with diethylether, the organic layer dried over MgSO4, filtered and concentrated. The purification was achieved by column chromatography (PE) to yield the title compound (36.4 mmole; 93%). 1H NMR (300 MHz, CDCl3) 3.73 (t; 3J=5.7 Hz; 2H; CH2O); 3.51 (t; 3J=6.4 Hz; 2H; CH2Br); 2.02 (q; 3J=5.7 Hz; 3J=6.4 Hz; 2H; CH2CH2CH2); 0.89 (s; 9H; C(CH3)3); 0.06 (s; 6H; 2×CH3).

reactant | 3-bromopropanol | 39.1 mmole, 5.43 g | BrCCCO | C3H7BrO
reactant | tert.-butyldimethylsilylchloride | 43.2 mmole, 6.47 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 46.7 mmole, 3.20 g | N1C=NC=C1 | C3H4N2
product | 3-Bromopropoxy-tert.-butyldimethylsilane | 36.4 mmole, 93% | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
